US04920116
N,N-Diethyl-N'-(2,6-bis(1-methylethyl)phenyl)-1,2-ethanediamine
To 200 mL of tetrahydrofuran under a nitrogen atmosphere add 8.8 g (0.23 mol) of lithium aluminum hydride. Add dropwise a solution of 33.8 g (0.12 mol) of 2-(diethylamino)-N-(2,6-bis(1-methylethyl)phenyl)acetamide in 150 mL of tetrahydrofuran. When the addition is complete allow the reaction to stir at reflux. Monitor the progress of the reaction by thin-layer chromatography on silica gel (CH2Cl2 :MeOH, 9:1). Upon completion of the reaction add 1 mL of water, 1 mL of 15% NaOH and 3 mL of water per gram of lithium aluminum hydride. The solid material is removed by suction filtration through celite and the solvent is removed in vacuo. Recrystallize the solid from hexane to give the title compound.

reactant | lithium aluminum hydride | 0.23 mol, 8.8 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 2-(diethylamino)-N-(2,6-bis(1-methylethyl)phenyl)acetamide | 0.12 mol, 33.8 g | C(C)N(CC(=O)NC1=C(C=CC=C1C(C)C)C(C)C)CC | C18H30N2O
reactant | water | 1 mL | O | H2O
reactant | NaOH | 1 mL | [OH-].[Na+]
reactant | water | 3 mL | O | H2O
solvent | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
product | N,N-Diethyl-N'-(2,6-bis(1-methylethyl)phenyl)-1,2-ethanediamine | C(C)N(CCNC1=C(C=CC=C1C(C)C)C(C)C)CC | C18H32N2
